US04560692
From 100 g of p-chloroaniline and 138.5 ml of ethyl benzoylacetate treated according to Example 4(a) there was obtained 115.6 g of 6-chloro-2-phenyl-4-quinolinol, mp greater than 350°.

reactant | p-chloroaniline | 100 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | ethyl benzoylacetate | 138.5 ml | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
product | 6-chloro-2-phenyl-4-quinolinol | 115.6 g | ClC=1C=C2C(=CC(=NC2=CC1)C1=CC=CC=C1)O | C15H10ClNO
